US07030240B2
3-(5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-4-yl)-1,3-diaminopropane
A solution of 4-chloro-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine (0.5 g, 2.43 m. mol) in 1,3-diaminepropane (5 ml) was heated at 80° C. for 1 day. It was cooled to room temperature and then diluted with water (50 mL). The clear solution was cooled at 0° C. for over night. The resulting solid was filtered and dried to get the title compound (0.3 g, 52%) as a brown color solid. 1H NMR (400 MHz, CD3OD): δ 8.20 (s, 1H), 3.65 (t, 2H), 2.95 (m, 2H), 2.80 (m, 4H), 1.80–2.00 (m, 6H). MS (ESI) m/z: Calculated: 262.37; Observed: 263.1 (M++1).

reactant | 4-chloro-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine | 0.5 g | ClC=1C2=C(N=CN1)SC1=C2CCCC1 | C10H9ClN2S
solvent | 1,3-diaminepropane | 5 ml | C(CN)CN | C3H10N2
solvent | water | 50 mL | O | H2O
product | 3-(5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-4-yl)-1,3-diaminopropane | 0.3 g, 52% | N1=CN=C(C2=C1SC1=C2CCCC1)C(CCN)N | C13H18N4S
